* C:\Users\User\Desktop\Model U-Draft17\Зеркало.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N011 N001 N003 N009 N012 N014 N015 PA340
R1 N011 0 75k
R2 N004 N012 24
R3 N001 N013 4k
C1 N014 N015 30p
V1 0 N009 50
V2 N003 0 50
Rn N007 0 1000
Ros N002 N001 40k
Cos N002 N001 5p
R10 N011 N010 20k
V5 N013 0 PULSE(0 -4 1u 0.1u 0.1u 10u 0.01)
R6 N017 N016 24
V4 N010 0 0.003
X§U4 N003 N004 N005 tip142
X§U5 N009 N017 N018 tip147
R5 N006 N005 0.2
R7 N006 N018 0.2
X§U2 N016 N012 DI_1N4729A
X§X2 N003 N009 N007 N002 NC_01 NC_02 Draft1
Rsh N007 N006 10
Q3 N012 N008 P001 0 2N5401
Q1 N008 N008 P002 0 2N5401
Q2 N019 N019 P003 0 2N5550
Q4 N016 N019 P004 0 2N5550
R4 N008 N019 1000000
R9 N003 P002 10000
R11 N003 P001 10000
R12 P004 N009 10000
R13 P003 N009 10000

* block symbol definitions
.subckt Draft1 +55 -55 IN OUT VS1+ VS1-
X§U1 N008 N010 N007 N009 OUT TLV9152
R2 N002 N007 150
R3 N009 N014 150
R4 N011 OUT 4.7k
R5 +55 N004 820
R6 +55 N005 2k
R7 N016 -55 820
R8 N017 -55 2k
R9 N006 N012 200k
R10 OUT N010 33
C1 N007 N009 6800p
D1 N011 N001 MMBZ9V1ALY
D2 N013 N011 MMBZ9V1ALY
C2 N011 0 10p
Q7 N012 N012 N017 0 DZTA42
Q2 N013 N012 N016 0 DZTA42
Q3 +55 N001 N002 0 FZT658
Q1 N004 N006 N001 0 CZTA92
Q5 N005 N006 N006 0 CZTA92
Q4 -55 N013 N014 0 FZT758
R1 N008 IN 301k
Q6 N013 N015 VS1- 0 CZTA92
Q8 N001 N003 VS1+ 0 DZTA42
R11 N015 N014 400
R12 VS1- N014 150
R13 N003 N002 400
R14 VS1+ N002 150
.inc buff1models.txt
.ends Draft1

.model D D
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 60u 0 10n
.options itl4=50
* .dc V5 0 1 0.01
.lib .\tlv9152.lib
.lib DI_1N4729A.cir
.lib PA340_Pspice.LIB
.lib TIP142.cir
.lib TIP147.cir
.backanno
.end
