

.SUBCKT IPB073N15N5_L0  drain  gate  source

Lg     gate  g1    6.5n
Ld     drain d1    0.1n
Ls     source s1   3.6n
Rs      s1    s2   587u TC=3m

Rg     g1    g2     1.1
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 199.5  VTO=5  THETA=0  VMAX=1.5e5  ETA=0.005  LEVEL=3)
Rd     d1    d2    4.12m TC=9m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=161   M=0.65  CJO=1.48n  VJ=2.5V)
Rsp     s2    s3     0.15
Dbd1     s3    d2    Dbt1
.MODEL     Dbt1    D(BV=1000   M=0.65  CJO=5.87n  VJ=2.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=6.4p  N=1.05  RS=0.03u  EG=1.12  TT=30n)
Rdiode  d1  21    0.75m TC=1m




.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   0.53n
.MODEL     DGD    D(M=0.42   CJO=0.53n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    3.62n

.ENDS  IPB073N15N5_L0





